US08440689B2
tert-Butyl (1S,2R)-2-(7-iodo-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
To a screw-top vial was added tert-butyl (1S,2R)-2-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (73 mg, 0.162 mmol) and 1-iodopyrrolidine-2,5-dione (36.4 mg, 0.162 mmol) in DCM (1.6 mL) to give a yellow solution. The reaction was stirred 0.5 h at RT. The reaction mixture was diluted with DCM (10 mL) and washed with saturated aq NaHCO3 (10 mL), water (10 mL), and brine (10 mL). The collected organic layers were dried with sodium sulfate and concentrated to give the title compound as a brown solid, which was used without further purification (85.7 mg, 92%). [M+H] calc'd for C25H32IN5O3, 578. found, 578.

reactant | tert-butyl (1S,2R)-2-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.162 mmol, 73 mg | O=C1NCC2=C1C(=NC(=C2)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)NC=2C=C(C=CC2)C | C25H33N5O3
reactant | 1-iodopyrrolidine-2,5-dione | 0.162 mmol, 36.4 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | DCM | 1.6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1S,2R)-2-(7-iodo-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | IC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C)C(NC2)=O | C25H32IN5O3
